Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine
 
Attending: ___
 
Chief Complaint:
Found down
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ p/w R parietal intraparenchymal hemorrhage in setting
of apixaban use. 

Patient's dementia is long-standing and moved here from ___ 
a
year ago; her children provide 24 hour support and provide the
majority of the following history. 

She has been staying with her son for the past couple of months.
Over the past week, her mobility has been worse; she is hunched
forward and the balance is worse. She has also had poor control
of her bowels. On ___, she had a fall which seemed
mechanical into a chair. Yesterday, she had another fall, 
hitting
both knees then hands then her forehead. Afterwards she seemed
normal. This morning her daughter found her on the floor (~5am)
in her bedroom; the patient was not sure what happened. When her
family helped her up, she couldn't put one foot in front of the
other. Afterwards, she was complaining of pain in the legs and
back so she was given ibuprofen. She slept until about 8:45 this
morning and she could stand with assistance but she didn't get
started properly. She has not taken her morning medications 
(last
Eliquis dose was yesterday night). 

Her children brought her into ___ where she was diagnosed
with a right parietal bleed of unclear etiology. She had some
nausea there but did not vomit. Her examination was reportedly
non-focal. She was transferred here. On arrival to ___ VS 0
97.9 85 133/83 16 95% RA FS120. Examination unchanged. UA c/w
mild UTI. 

ROS: Nausea. Back pain over the past week (sometimes patient
endorses, sometimes she denies). Has been urinating more
frequently over the past week. No obvious change in
receptive/productive speech. No dysarthria. No obvious change in
vision, voice quality. No focal weakness/numbness or 
appendicular
clumsiness. Gait instability as above. Denies any chest pain,
cough, shortness of breath, arthralgias, rash.
 
Past Medical History:
- Atrial fibrillation
- Still's disease treated with prednisone & MTX/folate
- Vertigo
- Macular degeneration
- ? impaired insulin tolerance vs DM
- Dementia (she can feed herself but needs help with bathing and
dressing)
- GERD
- Total hysterectomy 1970s
- Skin ca right leg
- s/p lumbar discectomy 
 
Social History:
___
Family History:
No neurologic problems.
 
Physical Exam:
===========================
ADMISSION PHYSICAL EXAM
===========================
88 166/105 16 96% RA 
General: Elderly woman, NAD NT ND
Head: No ptosis
Neck: No midline tenderness, moderate restriction in range
bidirectionally
Spine: Tenderness to palpation in thoracic spine
Card: Soft, irregularly irregular
Pulm: Clear
Abdomen: Soft
Extrem: Thin
Neurologic
 - MS: Awake, very pleasant & warm, interactive and engaging.
Knows her name but is not oriented to year, month, day, or place
without my prompting. Able to identify that I am a doctor and
then to sort out that she is in a hospital, though she does not
know which. Knows the days of the week forwards but not in
reverse. Names most objects ("hand", key, chair but cannot name
cactus or hammock; no paraphasic errors though). Does not repeat
to phrases (though there is difficulty with many types of
commands). Follows simple but not complex commands. No apparent
spatial neglect; engages with me when I am to the left of her
bed. However does identify her right hand as her own but she 
says
that her left hand is mine ("the doctor's"). 
 - Cranial nerves: 1->1.5 and post-surgical ___. No frank field
cut, but does attend more briskly to visual stimulus in the 
right
field. Difficult to parse out field cut from neglect given her
ability to participate. Tracks with apparently full EOM and no
apparent nystagmus. Face symmetric to touch. Slight left NLFF at
rest but activates well. Audition equal, palate rises
symmetrically. Shrug and tongue protrusion symmetric.
 - Motor: Cannot perform detailed testing, but MAE at least
anti-gravity with likely left arm downward drift. No ___ or
Babinski. No clonus. Gegenhalten. 
 - Sensory: Seems to be sensitive to tickle and cold throughout,
though naming which limb is affected is difficult (frequently
says "right" regardless of which side is touched). Graphesthesia
(#3) is preserved in the left hand. Cannot test topagnosia.
Proprioception with right finger to nose (with eyes closed) is
good but limited in the left arm (? strength). Proprioception to
large movements seems to be preserved at both halluces.  
 - Reflexes: Symmetric and brisk throughout; could not test R
patella with inability to relax
 - Cerebellar: No obvious tremor/incoordination reaching to me
with either hand.
 - Gait: Deferred due to gtt, lack of clarity re: spine, known
gait impairment. 

===========================
DISCHARGE PHYSICAL EXAM
===========================
MS: pseudobulbar affect, follows commands intermittently, names 
some objects, sometimes will repeat
CN: PERRL with postsurgical pupils, EOMI, decreased blink to 
threat on left but will intermittently point to finger wiggling 
in left visual field, left nasolabial fold flattening, tongue 
midline
Motor: left arm drift, difficulty evaluating left side due to 
some neglect but overall antigravity on the left
Sensory: withdraws all extremities to tickle
Coordination: no obvious ataxia when reaching for bed rails   
 
Pertinent Results:
=======
LABS
=======
___ 01:06PM BLOOD ___ PTT-29.1 ___
___ 05:10AM BLOOD ___ PTT-28.8 ___
___ 01:06PM BLOOD ALT-30 AST-38 AlkPhos-85 TotBili-1.2
___ 02:00AM BLOOD Calcium-9.0 Phos-3.4 Mg-1.8 Cholest-202*
___ 02:00AM BLOOD %HbA1c-6.5* eAG-140*
___ 02:00AM BLOOD Triglyc-80 HDL-93 CHOL/HD-2.2 LDLcalc-93
___ 02:00AM BLOOD TSH-2.3
___ 01:46PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:46PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.5 Leuks-SM 
___ 01:46PM URINE RBC-5* WBC-25* Bacteri-NONE Yeast-NONE 
Epi-<1

URINE CULTURE (Final ___: STAPHYLOCOCCUS, COAGULASE 
NEGATIVE.    10,000-100,000 ORGANISMS/ML.

========
IMAGING
========
NCHCT (___):
1. Large right parietal intraparenchymal hemorrhage with 
intraventricular 
extension into the right greater than left occipital horns and 
the local mass effect with surrounding edema.  No prior exam 
available on PACS to compare progression. 
2. Probable sequelae of chronic small vessel ischemic disease, 
difficult to fully evaluate without priors. 
3. Global extensive cortical volume loss.

NCHCT (___):
1. Right parietal intraparenchymal hematoma is slightly larger 
compared to 1 day ago, with grossly stable uppercase mass-effect 
and edema. 
2. Interval redistribution of intraventricular hemorrhage 
3. No definite new hemorrhage identified.  

NCHCT (___): No significant change since the previous CT 
when accounting for differences in 
slice selection.  The hematoma as well as intraventricular blood 
and 
ventricular size appears stable. 

R HIP (UNILAT 2 VIEW) W/PELVIS (1 VIEW) (___): No fracture. 
 
Brief Hospital Course:
Ms. ___ is an ___ with a past medical history of atrial 
fibrillation on apixaban and dementia (unclear which type) who 
presented ___ after being found down at home; NCHCT revealed a 
right parietal intraparenchymal hemorrhage with intraventricular 
extension. She was admitted to the neurologic ICU for close 
monitoring given the size of the bleed and the intraventricular 
extension.

While in the ICU, she remained clinically stable. Due to SBPs 
being elevated to the 170s at presentation, she was placed on 
nicardipine gtt with a goal of SBP < 140. This was discontinued 
on hospital day #2 (___) after BP normalized. Serial NCHCTs 
initially showed a mild increase in the size of the bleed and 
then normalized. Pt was transferred to the floor on hospital day 
#2 and BP parameters were widened to a goal SBP < 160. She was 
maintained on metoprolol and amlodipine. 

Her bleed was felt to be likely due to her use of 
anticoagulation combined with underlying cerebral amyloid 
angiopathy (relate to her underlying dementia). At the same 
time, she had atrial fibrillation, which puts her at higher risk 
of stroke. Her CHADS-VASc score is 5 (hypertension, diabetes, 
age >___, female), which puts her risk for ischemic stroke due to 
afib at 12.5%. Her HASBLED score, on the other hand, is 3(HTN, 
elderly, drug therapy) or 4 (if one includes her current IPH) if 
she were to be continued on apixaban, which puts her at high 
risk of bleeding (4.9-19.6% risk of bleeding within the next 
year on a novel anticoagulant). 

At the time of discharge, the decision was made to discontinue 
anti-coagulation indefinitely given pt's risk of having a 
devastating second bleed. MRI was not done as it was felt this 
would not alter management.

Otherwise, pt was found to have a UTI at presentation which was 
treated with a course of ceftriaxone. Urine cultures grew 
<100,000 ORGANISMS/ML of coagulase negative staphylococcus, 
which was likely skin contaminant. Given her elevated WBC count 
(although pt on prednisone), she will continue on macrobid for 
full 7 days of treatment. 

Pt was started on her home medications apart from apixaban on 
hospital day #2. Physical and occupational therapy and speech 
and swallow therapy worked with her during her hospitalization 
and recommended rehab. 

Of note, she was complaining of hip/back pain with negative hip 
XR; pain resolved so no spinal imaging obtained. 

==========================================================
AHA/ASA Core Measures for Intracerebral Hemorrhage  
==========================================================
1. Dysphagia screening before any PO intake? (X) Yes - () No  
2. DVT Prophylaxis administered? (X) Yes - () No  
3. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]  
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No  
5. Assessment for rehabilitation and/or rehab services 
considered? (X) Yes - () No  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 2.5 mg PO BID 
2. Metoprolol Tartrate 50 mg PO BID 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. PredniSONE 5 mg PO DAILY 
5. Donepezil 10 mg PO QHS 
6. Meclizine 12.5 mg PO Q8H:PRN vertigo 
7. esomeprazole magnesium 20 mg oral DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Methotrexate 10 mg PO QTHUR 

 
Discharge Medications:
1. Donepezil 10 mg PO QHS 
2. FoLIC Acid 1 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Methotrexate 10 mg PO QTHUR 
5. Metoprolol Tartrate 50 mg PO BID 
6. PredniSONE 5 mg PO DAILY 
7. Acetaminophen 325-650 mg PO Q6H:PRN pain 
8. amLODIPine 5 mg PO DAILY 
9. Esomeprazole Magnesium 20 mg ORAL DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 3 
Days 
12. Calcium Carbonate 500 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right intraparenchymal hemorrhage
Likely Cerebral amyloid angiopathy

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms of inability to get 
started after a fall resulting from an ACUTE INTRAPARENCHYMAL 
HEMORRHAGE, a condition where a blood vessel providing oxygen 
and nutrients to the brain has bled. The brain is the part of 
your body that controls and directs all the other parts of your 
body, so damage to the brain can result in a variety of 
symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- atrial fibrillation
 
We are changing your medications as follows:  
- stop apixaban 
 
Please take your other medications as prescribed.  
 
Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___